US07157487B2
To a suspension of 4-fluoro-1-methylindole-3-carboxylic acid (700 mg, 3.62 mmol) and DMF (28.0 μl, 0.36 mmol) in methylene chloride (20 ml) was added oxalyl chloride (0.35 ml, 3.99 mmol) in portions under stirring at room temperature. After the reaction mixture was stirred at room temperature for 50 minutes, oxalyl chloride (30 μl) was added, and the mixture was stirred for further 40 minutes. To the reaction mixture, a solution of ethyl (4-amino-5-chloro-2-fluorophenyl)acetate (839 mg, 3.62 mmol) and triethylamine (1.52 ml, 10.9 mmol) in methylene chloride (5 ml) was added and the mixture was heated under reflux at room temperature for 4 hours. After cooling to room temperature, the reaction mixture was added with water, followed by extraction with chloroform. The extract was washed with brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography opn a silica gel column, whereby from n-hexane-ethyl acetate (2:1, v/v) eluate fractions, ethyl (5-chloro-2-fluoro-4-((4-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetate (762 mg, 52%) was obtained as a yellow solid.

reactant | 4-fluoro-1-methylindole-3-carboxylic acid | 3.62 mmol, 700 mg | FC1=C2C(=CN(C2=CC=C1)C)C(=O)O | C10H8FNO2
reactant | DMF | 0.36 mmol, 28.0 μl | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.99 mmol, 0.35 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 30 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl (4-amino-5-chloro-2-fluorophenyl)acetate | 3.62 mmol, 839 mg | NC1=CC(=C(C=C1Cl)CC(=O)OCC)F | C10H11ClFNO2
reactant | triethylamine | 10.9 mmol, 1.52 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | ethyl (5-chloro-2-fluoro-4-((4-fluoro-1-methyl-3-indolylcarbonyl)amino)phenyl)acetate | 762 mg, 52% | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=CN(C2=CC=CC(=C12)F)C | C20H17ClF2N2O3
